US07179804B2
[3-Aminomethyl-5-(2-chloro-phenyl)-isoxazol-4-yl]-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H[1,2,3]triazol-4-yl]-methanone
Combine [1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-[5-(2-chloro-phenyl)-3-hydroxymethyl-isoxazol-4-yl]-methanone (0.30 g, 0.49 mmol), diphenyl phosphoryl azide (0.13 mL, 0.59 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.09 mL, 0.59 mmole) in THF (2 mL) and stir at RT overnight. Filter off the solid and concentrate the filtrate. Dissolve the crude product in THF (2 mL), add triphenylphosphine (0.16 g, 0.59 mmole), and a few drops of water. Stir the mixture overnight. Purify the resulting amine by sequentially passing through a short silica gel column (gradient elution with EtOAc, 2% MeOH in EtOAc, 5% MeOH/2% NH4OH(aq) in EtOAc), a SCX column (elution with 1:1 MeOH/CH2Cl2 and then 3.5 M NH3 in MeOH) and again a short silica gel column (gradient elution with EtOAc, 5% MeOH/2% NH4OH (aq) in EtOAc) to provide a yellow oil (0.14 g, 47%). 1H NMR (400 MHz, CDCl3) δ 4.07 (s, 2H), 5.45 (s, 2H), 7.18–7.25 (m, 3H), 7.30–7.40 (m, 3H), 7.44 (t, J=7.42 Hz, 1H), 7.74 (d, J=7.62 Hz, 1H), 7.87 (s, 1H), 8.81 (m, 2H); MS (ESI) m/z 607.1 (M+1).

reactant | [1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-[5-(2-chloro-phenyl)-3-hydroxymethyl-isoxazol-4-yl]-methanone | 0.49 mmol, 0.30 g | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)C(=O)C=2C(=NOC2C2=C(C=CC=C2)Cl)CO)C=C(C1)C(F)(F)F)(F)F | C27H16ClF6N5O3
reactant | diphenyl phosphoryl azide | 0.59 mmol, 0.13 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.59 mmole, 0.09 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | triphenylphosphine | 0.59 mmole, 0.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | water | a few drops | O | H2O
product | [3-Aminomethyl-5-(2-chloro-phenyl)-isoxazol-4-yl]-[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-4-yl-1H[1,2,3]triazol-4-yl]-methanone | 0.14 g, 47% | NCC1=NOC(=C1C(=O)C=1N=NN(C1C1=CC=NC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=C(C=CC=C1)Cl | C27H17ClF6N6O2
